.SubCkt GRM42A7U3F100JW31 [_net1] [_net2]
.param K01=1.0000e-11
.param M01=1.0000e+10
.param L02=6.2372e-10
.param M03=1.3313e-01
.param K04=4.0461e-10
.param M04=3.9335e+00
.param L05=2.6271e-11
.param M05=4.9520e-01
.param K06=3.4010e-12
.param L06=3.2326e-10
.param M06=1.9498e+02
C01 _net1 _net0102 {K01}
R01 _net1 _net0102 {M01}
L02 _net0102 _net0203 {L02}
R03 _net0203 _net0304 {M03}
C04 _net0304 _net0405 {K04}
R04 _net0304 _net0405 {M04}
L05 _net0405 _net0506 {L05}
R05 _net0405 _net0506 {M05}
C06 _net0506 _net2 {K06}
L06 _net0506 _net2 {L06}
R06 _net0506 _net2 {M06}
.ends GRM42A7U3F100JW31

.SubCkt GRM42A7U3F120JW31 [_net1] [_net2]
.param K01=1.2000e-11
.param M01=1.0000e+10
.param L02=2.9867e-10
.param M03=1.8524e-01
.param K04=4.3394e-10
.param M04=4.1152e+00
.param L05=1.3161e-13
.param M05=3.4246e-03
.param K06=1.5546e-12
.param L06=6.7538e-10
.param M06=4.5709e+02
C01 _net1 _net0102 {K01}
R01 _net1 _net0102 {M01}
L02 _net0102 _net0203 {L02}
R03 _net0203 _net0304 {M03}
C04 _net0304 _net0405 {K04}
R04 _net0304 _net0405 {M04}
L05 _net0405 _net0506 {L05}
R05 _net0405 _net0506 {M05}
C06 _net0506 _net2 {K06}
L06 _net0506 _net2 {L06}
R06 _net0506 _net2 {M06}
.ends GRM42A7U3F120JW31

.SubCkt GRM42A7U3F150JW31 [_net1] [_net2]
.param K01=1.5000e-11
.param M01=1.0000e+10
.param L02=6.2569e-10
.param M03=1.7816e-01
.param K04=3.5437e-10
.param M04=1.0655e+01
.param L05=1.6771e-11
.param M05=2.6764e-01
.param K06=3.0235e-12
.param L06=3.7926e-10
.param M06=2.7558e+02
C01 _net1 _net0102 {K01}
R01 _net1 _net0102 {M01}
L02 _net0102 _net0203 {L02}
R03 _net0203 _net0304 {M03}
C04 _net0304 _net0405 {K04}
R04 _net0304 _net0405 {M04}
L05 _net0405 _net0506 {L05}
R05 _net0405 _net0506 {M05}
C06 _net0506 _net2 {K06}
L06 _net0506 _net2 {L06}
R06 _net0506 _net2 {M06}
.ends GRM42A7U3F150JW31

.SubCkt GRM42A7U3F180JW31 [_net1] [_net2]
.param K01=1.8000e-11
.param M01=1.0000e+10
.param L02=6.1936e-10
.param M03=1.2360e-01
.param K04=8.2685e-10
.param M04=1.7555e+00
.param L05=2.5513e-11
.param M05=2.5104e-01
.param K06=4.1425e-12
.param L06=3.6038e-10
.param M06=1.4818e+02
C01 _net1 _net0102 {K01}
R01 _net1 _net0102 {M01}
L02 _net0102 _net0203 {L02}
R03 _net0203 _net0304 {M03}
C04 _net0304 _net0405 {K04}
R04 _net0304 _net0405 {M04}
L05 _net0405 _net0506 {L05}
R05 _net0405 _net0506 {M05}
C06 _net0506 _net2 {K06}
L06 _net0506 _net2 {L06}
R06 _net0506 _net2 {M06}
.ends GRM42A7U3F180JW31

.SubCkt GRM42A7U3F220JW31 [_net1] [_net2]
.param K01=2.2000e-11
.param M01=1.0000e+10
.param L02=8.1159e-10
.param M03=1.6981e-01
.param K04=7.4268e-10
.param M04=5.5746e+00
.param L05=2.3950e-11
.param M05=4.9500e-01
.param K06=1.4499e-11
.param L06=1.4433e-10
.param M06=3.7156e+01
C01 _net1 _net0102 {K01}
R01 _net1 _net0102 {M01}
L02 _net0102 _net0203 {L02}
R03 _net0203 _net0304 {M03}
C04 _net0304 _net0405 {K04}
R04 _net0304 _net0405 {M04}
L05 _net0405 _net0506 {L05}
R05 _net0405 _net0506 {M05}
C06 _net0506 _net2 {K06}
L06 _net0506 _net2 {L06}
R06 _net0506 _net2 {M06}
.ends GRM42A7U3F220JW31

.SubCkt GRM42A7U3F270JW31 [_net1] [_net2]
.param K01=2.7000e-11
.param M01=1.0000e+10
.param L02=1.2868e-10
.param M03=1.7067e-01
.param K04=4.6475e-11
.param L04=6.2134e-11
.param M04=9.8531e+00
.param K05=2.1770e-12
.param L05=4.8389e-10
.param M05=1.7945e+02
.param K06=3.1251e-12
.param L06=2.3202e-10
.param M06=1.1142e+02
C01 _net1 _net0102 {K01}
R01 _net1 _net0102 {M01}
L02 _net0102 _net0203 {L02}
R03 _net0203 _net0304 {M03}
C04 _net0304 _net0405 {K04}
L04 _net0304 _net0405 {L04}
R04 _net0304 _net0405 {M04}
C05 _net0405 _net0506 {K05}
L05 _net0405 _net0506 {L05}
R05 _net0405 _net0506 {M05}
C06 _net0506 _net2 {K06}
L06 _net0506 _net2 {L06}
R06 _net0506 _net2 {M06}
.ends GRM42A7U3F270JW31

.SubCkt GRM42A7U3F330JW31 [_net1] [_net2]
.param K01=3.3000e-11
.param M01=1.0000e+10
.param L02=1.1679e-11
.param M03=1.6640e-01
.param K04=1.8933e-11
.param L04=8.0045e-11
.param M04=1.1055e+01
.param K05=1.0183e-12
.param L05=9.4350e-10
.param M05=7.8334e+02
C01 _net1 _net0102 {K01}
R01 _net1 _net0102 {M01}
L02 _net0102 _net0203 {L02}
R03 _net0203 _net0304 {M03}
C04 _net0304 _net0405 {K04}
L04 _net0304 _net0405 {L04}
R04 _net0304 _net0405 {M04}
C05 _net0405 _net2 {K05}
L05 _net0405 _net2 {L05}
R05 _net0405 _net2 {M05}
.ends GRM42A7U3F330JW31

.SubCkt GRM42A7U3F390JW31 [_net1] [_net2]
.param K01=3.9000e-11
.param M01=1.0000e+10
.param L02=4.1946e-12
.param M03=1.6263e-01
.param K04=2.6743e-11
.param L04=7.6442e-11
.param M04=9.1954e+00
.param K05=1.3031e-12
.param L05=9.5904e-10
.param M05=6.9816e+02
C01 _net1 _net0102 {K01}
R01 _net1 _net0102 {M01}
L02 _net0102 _net0203 {L02}
R03 _net0203 _net0304 {M03}
C04 _net0304 _net0405 {K04}
L04 _net0304 _net0405 {L04}
R04 _net0304 _net0405 {M04}
C05 _net0405 _net2 {K05}
L05 _net0405 _net2 {L05}
R05 _net0405 _net2 {M05}
.ends GRM42A7U3F390JW31

.SubCkt GRM42A7U3F470JW31 [_net1] [_net2]
.param K01=4.7000e-11
.param M01=1.0000e+10
.param L02=5.0016e-12
.param M03=1.4692e-01
.param K04=7.8926e-11
.param L04=3.9204e-11
.param M04=3.2627e+00
.param K05=1.2161e-12
.param L05=9.3721e-10
.param M05=4.2068e+02
C01 _net1 _net0102 {K01}
R01 _net1 _net0102 {M01}
L02 _net0102 _net0203 {L02}
R03 _net0203 _net0304 {M03}
C04 _net0304 _net0405 {K04}
L04 _net0304 _net0405 {L04}
R04 _net0304 _net0405 {M04}
C05 _net0405 _net2 {K05}
L05 _net0405 _net2 {L05}
R05 _net0405 _net2 {M05}
.ends GRM42A7U3F470JW31

.SubCkt GRM42A7U3F560JW31 [_net1] [_net2]
.param K01=5.6000e-11
.param M01=1.0000e+10
.param L02=3.5089e-11
.param M03=1.3843e-01
.param K04=1.0404e-10
.param L04=4.1052e-11
.param M04=2.9079e+00
.param K05=3.1258e-12
.param L05=4.1864e-10
.param M05=1.0813e+02
.param K06=1.9423e-12
.param L06=4.7666e-10
.param M06=2.1553e+02
C01 _net1 _net0102 {K01}
R01 _net1 _net0102 {M01}
L02 _net0102 _net0203 {L02}
R03 _net0203 _net0304 {M03}
C04 _net0304 _net0405 {K04}
L04 _net0304 _net0405 {L04}
R04 _net0304 _net0405 {M04}
C05 _net0405 _net0506 {K05}
L05 _net0405 _net0506 {L05}
R05 _net0405 _net0506 {M05}
C06 _net0506 _net2 {K06}
L06 _net0506 _net2 {L06}
R06 _net0506 _net2 {M06}
.ends GRM42A7U3F560JW31

.SubCkt GRM42A7U3F680JW31 [_net1] [_net2]
.param K01=6.8000e-11
.param M01=1.0000e+10
.param L02=4.1690e-12
.param M03=1.2896e-01
.param K04=1.5748e-10
.param L04=3.9204e-11
.param M04=2.3098e+00
.param K05=1.6405e-11
.param L05=1.0516e-10
.param M05=1.3000e+01
.param K06=1.0922e-12
.param L06=8.4763e-10
.param M06=4.1068e+02
C01 _net1 _net0102 {K01}
R01 _net1 _net0102 {M01}
L02 _net0102 _net0203 {L02}
R03 _net0203 _net0304 {M03}
C04 _net0304 _net0405 {K04}
L04 _net0304 _net0405 {L04}
R04 _net0304 _net0405 {M04}
C05 _net0405 _net0506 {K05}
L05 _net0405 _net0506 {L05}
R05 _net0405 _net0506 {M05}
C06 _net0506 _net2 {K06}
L06 _net0506 _net2 {L06}
R06 _net0506 _net2 {M06}
.ends GRM42A7U3F680JW31

.SubCkt GRM42A7U3F820JW31 [_net1] [_net2]
.param K01=8.2000e-11
.param M01=1.0000e+10
.param L02=7.2435e-12
.param M03=1.1119e-01
.param K04=1.9374e-10
.param L04=4.3988e-11
.param M04=2.7770e+00
.param K05=2.7225e-11
.param L05=9.5904e-11
.param M05=9.6372e+00
.param K06=1.2118e-12
.param L06=8.1910e-10
.param M06=3.0444e+02
C01 _net1 _net0102 {K01}
R01 _net1 _net0102 {M01}
L02 _net0102 _net0203 {L02}
R03 _net0203 _net0304 {M03}
C04 _net0304 _net0405 {K04}
L04 _net0304 _net0405 {L04}
R04 _net0304 _net0405 {M04}
C05 _net0405 _net0506 {K05}
L05 _net0405 _net0506 {L05}
R05 _net0405 _net0506 {M05}
C06 _net0506 _net2 {K06}
L06 _net0506 _net2 {L06}
R06 _net0506 _net2 {M06}
.ends GRM42A7U3F820JW31

.SubCkt GRM42A7U3F101JW31 [_net1] [_net2]
.param K01=1.0000e-10
.param M01=1.0000e+10
.param L02=7.7842e-12
.param M03=1.0558e-01
.param K04=2.3293e-10
.param L04=5.2885e-11
.param M04=2.7770e+00
.param K05=5.3084e-11
.param L05=7.4446e-11
.param M05=5.6748e+00
.param K06=1.0314e-12
.param L06=8.3817e-10
.param M06=3.3382e+02
C01 _net1 _net0102 {K01}
R01 _net1 _net0102 {M01}
L02 _net0102 _net0203 {L02}
R03 _net0203 _net0304 {M03}
C04 _net0304 _net0405 {K04}
L04 _net0304 _net0405 {L04}
R04 _net0304 _net0405 {M04}
C05 _net0405 _net0506 {K05}
L05 _net0405 _net0506 {L05}
R05 _net0405 _net0506 {M05}
C06 _net0506 _net2 {K06}
L06 _net0506 _net2 {L06}
R06 _net0506 _net2 {M06}
.ends GRM42A7U3F101JW31
